US08877782B2
6-[3-(2-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 84f, 6-[3-(2-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (100 mg, 0.29 mmol) was converted, using 4-aminotetrahydropyran instead of 2,2,2-trifluoroethylamine, to the title compound (110 mg, 92%) which was obtained as a colourless oil. MS: m/e=412.2 [M+H]+.

reactant | 6-[3-(2-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.29 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=C(C=CC=C1)F)=O | C18H15FN2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[3-(2-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(tetrahydro-pyran-4-yl)-nicotinamide | 110 mg, 92% | FC1=C(C=CC=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC2CCOCC2)C=C1)C | C22H22FN3O4
